US06936608B2
c) 2′-Fluoro-5′-(imidazo[1,2-b][1,2,4]triazin-7-yl)biphenyl-2-carbonitrile
A stirred mixture of 7-bromoimidazo[1,2-b][1,2,4]triazine (0.22 g, 1.105 mmol), dried potassium phosphate (0.425 g, 2.002 mmol) and 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-2-carbonitrile (0.649 g, 2.008 mmol) in anhydrous N,N-dimethylacetamide (4 ml) was degassed by evacuation and refilling with nitrogen three times. Tetrakis(triphenylphosphine)palladium(0) (0.058 g, 0.05 mmol) was added and the mixture was degassed with two more evacuation-refilling cycles before heating at 80° C. for 4.5 h. The mixture was cooled to ambient temperature, diluted with ethyl acetate and filtered. The filtrate was washed with brine (200 ml), and the aqueous portion extracted with more ethyl acetate. The combined organic extracts were dried (Na2SO4) and evaporated in vacuo. The residue was purified by chromatography (silica gel, EtOAc) then recrystallisation (EtOAc) to give 74 mg (24%) of the title compound: mp 211-215° C.; 1H NMR (360 MHz, CDCl3) δ 7.36-7.41 (1H, t, J 7.2 Hz), 7.53-7.61 (2H, m), 7.70-7.74 (1H, m), 7.83 (1H, d, J 7.7 Hz), 8.12-8.16 (2H, m), 8.35 (1H, s), 8.50 (1H, dd, J 2.1, 11.6 Hz); MS (ES+) m/z 316 [M+H]+.

reactant | 7-bromoimidazo[1,2-b][1,2,4]triazine | 1.105 mmol, 0.22 g | BrC1=CN=C2N1N=CC=N2 | C5H3BrN4
reactant | potassium phosphate | 2.002 mmol, 0.425 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-2-carbonitrile | 2.008 mmol, 0.649 g | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)C#N | C19H19BFNO2
solvent | N,N-dimethylacetamide | 4 ml | CN(C(C)=O)C | C4H9NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 0.058 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′-Fluoro-5′-(imidazo[1,2-b][1,2,4]triazin-7-yl)biphenyl-2-carbonitrile | 74 mg, 24% | FC1=C(C=C(C=C1)C1=CN=C2N1N=CC=N2)C=2C(=CC=CC2)C#N | C18H10FN5
